US07893059B2
5-Chloro-2-(methylsulfonyl)-7-morpholinothiazolo[4,5-d]pyrimidine was reacted with 2-(methylsulfonyl)ethanamine (HCl salt), using 2.8 equiv of triethylamine, via General Procedure C, to give crude 5-chloro-N-(2-(methylsulfonyl)ethyl)-7-morpholinothiazolo[4,5-d]pyrimidin-2-amine, which was then reacted with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine via General Procedure C again to give 133 after purification by reverse HPLC. MS (Q1) 437 (M+)

reactant | 5-Chloro-2-(methylsulfonyl)-7-morpholinothiazolo[4,5-d]pyrimidine | ClC=1N=C(C2=C(N1)N=C(S2)S(=O)(=O)C)N2CCOCC2 | C10H11ClN4O3S2
reactant | 2-(methylsulfonyl)ethanamine | CS(=O)(=O)CCN | C3H9NO2S
reactant | triethylamine | 2.8 equiv | C(C)N(CC)CC | C6H15N
product | 5-chloro-N-(2-(methylsulfonyl)ethyl)-7-morpholinothiazolo[4,5-d]pyrimidin-2-amine | ClC=1N=C(C2=C(N1)N=C(S2)NCCS(=O)(=O)C)N2CCOCC2 | C12H16ClN5O3S2
